US04010279
4-[2-(2-Methoxy-5-chloro-benzamido)-ethyl]-4'-hydroxy-biphenyl
A solution of 43 gm (20.1 millimols) of 4-[2-Aminoethyl]-4'-hydroxy-biphenyl in a mixture of 8.5 gm (21.3 millimols) of sodium hydroxide, 270 ml of water and 100 ml of dioxane, was acylated with 41.5 gm (20.1 millimols) of 2-methoxy-5-chloro-benzoyl chloride at 0° C. After stirring at room temperature for 2 hours, the mixture was extracted with chloroform, and the organic phase was dried over sodium sulfate. After distilling off the extracting agent, 72 gm (94% of theory) of a light yellow oil were obtained. This oil crystallized slowly and was uniform in the thin-layer chromatogram (silicagel; eluant: benzene/ethyl acetate = 7:2). After purification by column chromatography on silicagel with benzene/ethyl acetate as the eluant, the oil crystallized slowly. M.p. 169° C

reactant | 4-[2-Aminoethyl]-4'-hydroxy-biphenyl | 20.1 millimols, 43 gm | NCCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H15NO
reactant | sodium hydroxide | 21.3 millimols, 8.5 gm | [OH-].[Na+]
reactant | water | 270 ml | O | H2O
reactant | 2-methoxy-5-chloro-benzoyl chloride | 20.1 millimols, 41.5 gm | COC1=C(C(=O)Cl)C=C(C=C1)Cl | C8H6Cl2O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-[2-(2-Methoxy-5-chloro-benzamido)-ethyl]-4'-hydroxy-biphenyl | COC1=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=C(C=C1)Cl | C22H20ClNO3
